US07053104B2
Preparation of 2,4-difluorophenylethylamine 2,4-Difluorophenylacetic acid (5 g, 29 mmol) in thionyl chloride (50 mL) was heated at reflux for 10 min and the excess thionyl chloride removed by distillation. The acid chloride in dichloromethane (10 mL) was added to a cooled (−78° C.) solution of NH3 (20 mL) in dichloromethane (250 mL). Triethylamine (40 mL) was added and the reaction stirred at ambient temperature for 60 min. The solvents were then evaporated and the remaining solid dissolved in diethyl ether (500 mL). The organic solution was washed with 10% HCl (4×100 mL), 1 N NaOH (4×100 mL), dried over anhydrous MgSO4, filtered and concentrated to afford 630 mg (13%) of 2,4-difluorophenylacetamide.

reactant | 2,4-difluorophenylethylamine 2,4-Difluorophenylacetic acid | 29 mmol, 5 g | FC1=C(C=CC(=C1)F)CC(=O)O.FC(CN)C1=CC=C(C=C1)F
solvent | thionyl chloride | 50 mL | S(=O)(Cl)Cl | Cl2OS
product | 2,4-difluorophenylacetamide | 630 mg, 13% | FC1=C(C=CC(=C1)F)CC(=O)N | C8H7F2NO
